US07985755B2
Step 2: 4-(2-Chlorobenzyl)cyclohexylmethanol
4-(2-Chlorobenzyl)cyclohexanecarboxylic acid (115 mg; 0.48 mmol) and lithium aluminum hydride (100 mg; 2.64 mmol) was carried out using Method H in 5 mL tetrahydrofuran. Material was purified by flash chromatography using 10-50% ethyl acetate in hexanes gradient to give 73 mgs of title compound. (67% yield).

reactant | 4-(2-Chlorobenzyl)cyclohexanecarboxylic acid | 0.48 mmol, 115 mg | ClC1=C(CC2CCC(CC2)C(=O)O)C=CC=C1 | C14H17ClO2
reactant | lithium aluminum hydride | 2.64 mmol, 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-(2-Chlorobenzyl)cyclohexylmethanol | 73 mgs, 67% yield | ClC1=C(CC2CCC(CC2)CO)C=CC=C1 | C14H19ClO
